US06043254
18.2 3-{(Z)-1-[(2-acetyl-1,2,3,4-tetrahydro-isoquinolin-6-yl)-amino]-1-phenylmethylidene}-5-nitro-2-indolinone
Prepared from 3-{(Z)-1-[(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amino]-1-phenylmethylidene}-5-nitro-2-indolinone×HCl×H2O in glacial acetic acid with acetic anhydride in the presence of Hunig's base.

reactant | 3-{(Z)-1-[(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amino]-1-phenylmethylidene}-5-nitro-2-indolinone | C1NCCC2=CC(=CC=C12)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C24H20N4O3
reactant | HCl | Cl | ClH
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 3-{(Z)-1-[(2-acetyl-1,2,3,4-tetrahydro-isoquinolin-6-yl)-amino]-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)(=O)N1CC2=CC=C(C=C2CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C26H22N4O4
